US05385985
Propyleneurea of 30.0 g (0.3 mol), ethylchloroformate of 10.9 g (0.1 mol) and dichloroethane of 100 g were charged in a reaction vessel and refluxed at 85° to 88° C. A solution of triethylamine of 10.1 g (0.1 mol) in dichloroethane of 250 g was added drop by drop to the refluxed mixture in 2.5 hours followed by continuing for further 2 hours. The resulting solution was condensated and a crude product was refined by the column chromatography to obtain ethoxycarbonylpropyleneurea of 2.2 g (12.7%).

reactant | Propyleneurea | C1CNC(=O)NC1 | C4H8N2O
reactant | ethylchloroformate | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | ethoxycarbonylpropyleneurea | C(C)OC(=O)CC(C)NC(=O)N | C7H14N2O3
